US07625903B2
A solution of diisopropyl azodicarboxylate (51.4 mmol, 1.3 eq) in EtOAc (20 mL) was added to N2-(2-hydroxyethyl)-N2-methyl-N1-(3-nitrophenyl)glycinamide (10 g, 39.5 mmol) and tributylphosphine (13 mL, 51.4 mmol, 1.3 eq.) in EtOAc (50 mL) over a 60-min period during which time the internal reaction temperature was maintained between 25° C. and 30° C. Ethanolic HCl (2.0 M solution, 20 mL) was added dropwise and the resulting slurry was cooled to 0° C. and stirred for an additional hour. The solid was collected by filtration, washed with isopropanol and dried in vacuo at 40° C. for 18 h to give the desired 1-methyl-4-(3-nitrophenyl)piperazine, which was used in the next step without further purification (8.43 g, 79% yield) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.90 (1H, br s) 8.28 (1H, t, J=2.15 Hz) 8.20 (1H, ddd, J=8.08, 2.27, 1.01 Hz) 7.85 (1H, d, J=2.02 Hz) 7.84 (1H, d, J=2.02 Hz) 7.77 (1H, t, J=8.08 Hz) 4.04 (3H, br. s.) 3.66 (1H, br. s.) 3.56 (1H, br. s.) 2.92 (4H, s).

reactant | diisopropyl azodicarboxylate | 51.4 mmol, 1.3 eq | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | N2-(2-hydroxyethyl)-N2-methyl-N1-(3-nitrophenyl)glycinamide | 39.5 mmol, 10 g | OCCN(CC(=O)NC1=CC(=CC=C1)[N+](=O)[O-])C | C11H15N3O4
reactant | tributylphosphine | 51.4 mmol, 13 mL, 1.3 eq. | C(CCC)P(CCCC)CCCC | C12H27P
reactant | HCl | 2.0 M, 20 mL | Cl | ClH
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-methyl-4-(3-nitrophenyl)piperazine | 79% yield | CN1CCN(CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C11H15N3O2
